US08293746B2
Step 19.2: 4-(1-Ethyl-Piperidin-4-yl)-phenylamine
A suspension of 1-ethyl-4-(4-nitro-phenyl)-piperidine (0.8 g, 4.92 mmol) and 10% palladium on carbon (0.1 g) in EtOH (10 mL) is stirred for 3 h at RT, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of celite and concentrated. The residue is purified by silica gel column chromatography (DCM/MeOH+1% NH3aq, 95:5) to provide the title compound. ESI-MS: 205.1 [MH]+; TLC: Rf=0.29 (DCM/MeOH+1% NH3aq, 95:5).

reactant | 1-ethyl-4-(4-nitro-phenyl)-piperidine | 4.92 mmol, 0.8 g | C(C)N1CCC(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H18N2O2
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-(1-Ethyl-Piperidin-4-yl)-phenylamine | C(C)N1CCC(CC1)C1=CC=C(C=C1)N | C13H20N2
